US05098924
Methanesulfonyl chloride (6.76 ml., 87.3 mmole, 1.0 eq.) was dissolved in distilled dichloromethane (44 ml., 0.5M). The solution was cooled in an ice bath and treated dropwise with n-butylamine (17.3 ml., 175 mmole, 2.0 eq.). After the addition was complete, the clear solution was stirred overnight at room temperature. The mixture was diluted with chloroform (200 ml.), dried, washed with 0.5N HCl (2×200 ml.) and saturated NaCl solution (200 ml.), dried (MgSO4) and freed of solvent in vacuo leaving an oil. This was purified by distillation to give N-butylmethanesulfonamide (11.4 g., 86%, b.p. 106°-110°/0.5 mm) which solidified on standing.

reactant | Methanesulfonyl chloride | 87.3 mmole, 6.76 ml, 1.0 eq. | CS(=O)(=O)Cl | CH3ClO2S
reactant | n-butylamine | 175 mmole, 17.3 ml, 2.0 eq. | C(CCC)N | C4H11N
solvent | dichloromethane | 0.5M, 44 ml | ClCCl | CH2Cl2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | N-butylmethanesulfonamide | 11.4 g, 86% | C(CCC)NS(=O)(=O)C | C5H13NO2S
